US05359098
6-[6-(4-Hydroxypiperidinyl)hexoxy]-2-(3-pyridyl)-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by the method of Example 11 from 2',5'-dihydroxyacetophenone, 3-pyridylcarbonyl chloride, and 4-hydroxypiperidine:

reactant | 2',5'-dihydroxyacetophenone | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | 3-pyridylcarbonyl chloride | N1=CC(=CC=C1)C(=O)Cl | C6H4ClNO
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 6-[6-(4-Hydroxypiperidinyl)hexoxy]-2-(3-pyridyl)-4H-1-benzopyran-4-one hydrochloride | Cl.OC1CCN(CC1)CCCCCCOC=1C=CC2=C(C(C=C(O2)C=2C=NC=CC2)=O)C1 | InChI=1S/C25H30N2O4.ClH/c28-20-9-13-27(14-10-20)12-3-1-2-4-15-30-21-7-8-24-22(16-21)23(29)17-25(31-24)19-6-5-11-26-18-19;/h5-8,11,16-18,20,28H,1-4,9-10,12-15H2;1H
